US06177440B1
A solution of the 9-[(2-fluorophenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole (237.5 mg, 0.68 mM) in 10 mL THF and 40 mL concentrated aqueous ammonium hydroxide was sonicated for 20 h at 40-50° C. The mixture was diluted with ethyl acetate and acidified to pH 1 with 5 N HCl. The aqueous layer was extracted twice with ethyl acetate. The combined organic extracts were washed with saturated brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with gradient methylene chloride/ethyl acetate) to afford 89.7 mg (40%) of the 9-[(2-fluorophenyl)methyl]-4-hydroxy-5-carbamoyl carbazole as a white solid. 1H NMR (DMSO-d6) δ 10.5 (s, 1H), 8.8 (br s, 1H), 8.4 (br s, 1H), 7.8 (dd, 1H, J=1 and 8 Hz), 7.5-6.9 (m, 7H), 6.65 (m, 2H), and 5.75 (s, 2H). IR (KBr, cm1) 3395, 3192 (br), 1621, 1599, 1580, 1564, 1491, 1455, 1334, 1261, and 774. MS (ES) m/e 333, 335.

reactant | 9-[(2-fluorophenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole | 0.68 mM, 237.5 mg | FC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(=O)OC | C21H16FNO3
reactant | HCl | 5 N | Cl | ClH
reactant | ammonium hydroxide | 40 mL | [OH-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(2-fluorophenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 89.7 mg, 40% | FC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C20H15FN2O2
